US04758585
A solution of cis-octahydro-2-oxo-cyclohepta[b]pyrrole-1(2H)-acetic acid ethyl ester (3.0 g, 0.0125 mole) in methanol (50 ml) is saturated with anhydrous ammonia. The solution is stirred at ambient temperature for 72 hours. the solution is concentrated at reduced pressure to yield a solid. Trituration with anhydrous diethyl ether yields pure cis-octahydro-2-oxo-cyclohepta[b]pyrrole-1(2H)acetamide with mp 140°-142° C.

reactant | cis-octahydro-2-oxo-cyclohepta[b]pyrrole-1(2H)-acetic acid ethyl ester | 0.0125 mole, 3.0 g | C(C)OC(CN1[C@@H]2[C@H](CC1=O)CCCCC2)=O | C13H21NO3
reactant | ammonia | N | H3N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | cis-octahydro-2-oxo-cyclohepta[b]pyrrole-1(2H)acetamide | O=C1C[C@H]2[C@@H](N1CC(=O)N)CCCCC2 | C11H18N2O2
